US08912186B2
A solution of ethyl N-(4-chloro-phenylacetyl)-N-phenylglycinate (0.4 g) and 5M NaOH (2.4 ml) in EtOH (12 ml) was refluxed for 2 h. After cooling to rt the mixture was poured into water (30 ml), acidified to pH 2 with 10% HCl and extracted with ethyl acetate (3×20 ml). The combined organic layers were washed with brine (20 ml), dried over MgSO4, and evaporated. The crude was purified by flash chromatography on silica gel (hexane/ethyl acetate 3:2+3% formic acid) to afford N-((4-chlorophenylacetyl)-N-phenylglycine (0.1 g) as colourless solid.

reactant | ethyl N-(4-chloro-phenylacetyl)-N-phenylglycinate | 0.4 g | ClC1=CC=C(C=C1)CC(=O)N(CC(=O)OCC)C1=CC=CC=C1 | C18H18ClNO3
reactant | NaOH | 5M, 2.4 ml | [OH-].[Na+]
reactant | water | 30 ml | O | H2O
reactant | HCl | Cl | ClH
solvent | EtOH | 12 ml | CCO | C2H6O
product | (4-chlorophenylacetyl)-N-phenylglycine | 0.1 g | ClC1=CC=C(C=C1)CC(=O)N(CC(=O)O)C1=CC=CC=C1 | C16H14ClNO3
